US04060528
To a stirred and cooled (ice-bath) mixture of 88 parts of nicotinoyl chloride hydrochloride in 400 parts of fluorobenzene are added portionwise 165 parts of aluminium chloride at a temperature between 5° and 10° C. Upon completion, the cooling-bath is removed and the mixture is stirred and refluxed for 6 hours. The reaction mixture is allowed to stand overnight at room temperature and is then poured onto a mixture of crushed ice and hydrochloric acid. After cooling, the layers are separated. The aqueous phase is extracted three times with ether. The combined organic layers are discarded and the aqueous phase is alkalized with a 40% sodium hydroxide solution. The product is extracted several times with chloroform. The extracts are washed twice with water, dried and evaporated. The residue is dissolved in ether. The solution is filtered from insoluble matter and the filtrate is allowed to crystallize upon dilution with petroleumether at -20° C, yielding p-fluorophenyl 3-pyridyl ketone; mp. 74.5° C.

reactant | nicotinoyl chloride hydrochloride | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | fluorobenzene | FC1=CC=CC=C1 | C6H5F
reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | p-fluorophenyl 3-pyridyl ketone | N1=CC(=CC=C1)C(=O)C1=CC=C(C=C1)F | C12H8FNO
